US06254724B1
1-Oxyl-2,2,6,6-tetramethyl-4-glycidyloxypiperidine
A vigorously stirred two phase solution of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, epichlorohydrin, tetrabutylammonium bromide in 50% aqueous sodium hydroxide and toluene is reacted together. The organic phase is dried over anhydrous magnesium sulfate and concentrated to yield the title compound as a low melting red solid after column chromatography.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Oxyl-2,2,6,6-tetramethyl-4-glycidyloxypiperidine | ON1C(CC(CC1(C)C)OCC1CO1)(C)C | C12H23NO3
